US07329662B2
5-(3,4-Bis-trifluoromethyl-phenyl)-3-pyridin-4-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3,4-bis-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (176 mg, 0.5 mmol), prepared from commercially available 3,4-bis-trifluoromethyl-acetophenone [CAS No. 129604-25-7] according to general procedure A, and 3-amino-4-(4-pyridinyl)-pyrazole [CAS No. 216661-87-9; prepared from 4-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (83 mg, 35%). Yellow solid. MS (ISP) 477.2 [(M+H)+]; mp 209° C.

reactant | 1-(3,4-bis-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 176 mg | FC(C=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O)(F)F | C12H5F9O2
reactant | 3-amino-4-(4-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C1=CC=NC=C1 | C8H8N4
product | 5-(3,4-Bis-trifluoromethyl-phenyl)-3-pyridin-4-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 83 mg, 35% | FC(C=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC=NC=C2)(F)F | C20H9F9N4
